US07345067B2
A solution of (2-methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid methyl ester (330 mg, 0.73 mmol) in THF (2.2 ml) and ethanol (2.2 ml) was treated at 0° C. with 1N LiOH (2.2 ml) and stirred for 1.25 h at RT. The reaction was extracted with aqueous 10% KHSO4/Et2O (3×). The organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated. The product was crystallized from CH2Cl2/Et2O to give pure (2-methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid, MS: 437.4 (MH)+, MP: 201-203° C., dec.

reactant | (2-methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid methyl ester | 0.73 mmol, 330 mg | COC(COC1=C(C=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C22H21F3N2O3S
reactant | LiOH | 1N, 2.2 ml | [Li+].[OH-]
solvent | THF | 2.2 ml | C1CCOC1 | C4H8O
solvent | ethanol | 2.2 ml | C(C)O | C2H6O
product | (2-methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C21H19F3N2O3S
